Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
foot pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
History is limited because patient arrived to the floor 
agitated, anxious and requesting to leave against medical 
advice. She was not interested in expanding on medical history 
so history obtained based on limited history from patient and 
from medical records and discussion with ED providers.
   
___ woman with history of recent ankle fracture s/p surgical 
fixation and recent hip fracture s/p ORIF who was brought into 
the ED by her daughter due to ankle pain. Of note, she was 
recently treated with oral antibiotics for treatment of ankle 
celulitis. She presented to the ED who evaluated patient, 
consulted orthopedics who were not concerned about hardware 
infection or osteomyelitis and recommended discharge home, 
social work was also consulted due to home situation which 
includes an aggressive daughter, elder services contacted. She 
was dishcarged home but represented to the ED for similar 
symptoms and was admitted for fever to 103 and dirty urinalysis. 
On arrival ___ is angry that she was admitted, is requesting 
to leave the hospital and that she was forced here by her 
daughter. She indicates her ankle pain is well controlled, she 
denies dysuria, back pain or fevers and she has no complaints. 
  
ROS: Reviewed and otherwise negative
 
Past Medical History:
Osteoporosis
Partial complex seizure disorder
Congenital scoliosis
Nontoxic multinodular goiter
HLD
Ankylosing spondylitis
H/o TB
Vitamin D deficiency

 
Social History:
___
Family History:
Daughter with traumatic brain injury
Mother ___ is healthy and living with them
 
Physical Exam:
98.4 PO 128 / 76 78 16 98 RA 
Genera: Agitated, pacing the hallways, refusing examination. 
Clear, coherent, fluent ___ speaking with heavy ___ 
accent. Oriented x3, attentive
Ankle: Left ankle with well healed surgical scares, medial 
maleulous with superficial scaling and hyperkeratosis over 
surgical site but no erythema, pain, effusion or abscess 
formation. Tinea pedis without cellulitis. No pain with passive 
or active movements. She is ambulating hallways without 
difficulty and stable on her feet
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 09:55PM BLOOD WBC-5.6 RBC-4.15 Hgb-12.4 Hct-39.2 MCV-95 
MCH-29.9 MCHC-31.6* RDW-11.7 RDWSD-40.1 Plt ___
___ 09:55PM BLOOD Neuts-80.6* Lymphs-14.7* Monos-4.0* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-4.48 AbsLymp-0.82* 
AbsMono-0.22 AbsEos-0.00* AbsBaso-0.01
___ 09:55PM BLOOD Plt ___
___ 09:55PM BLOOD Glucose-104* UreaN-10 Creat-0.6 Na-135 
K-3.8 Cl-94* HCO3-28 AnGap-17
___ 10:22PM BLOOD Lactate-1.6
 
CXR: No focal consolidation.
 
Brief Hospital Course:
___ yo woman with recent traumatic fractures of ankle and hip 
related to physical abuse by daughter at home who presented to 
the hospital with an unsafe living situation, found to have 
potentially a UTI but ultimately discharged herself against 
medical advice
  
# UTI.
Fever to 101 in the ED with positive UA but she denies any 
symptoms of dysuria or flank pain. Potentially not a true 
bacterial UTI but given truncated admission treated empirically 
with Cipro for 3 day course UCx pending on discharge. PCP 
confirmed she ___ follow up Cx post discharge
  
# R ankle pain.
Evaluated by orthopedics in the ED and found to be well healed 
from surgical fixation and low suspicion for intraarticular or 
hardware infection. Did have a fever in the ED but no 
leukocytosis and no signs or symptoms to suggest ankle or hip 
infection. 

# Social situation:
There is a long standing history of physical trauma at home 
secondary to aggressive behavior from daughter who per report 
has traumatic brain injury. Social work was consulted and filed 
for elder protective services. The patient already has visiting 
home services and outpatient social work has been involved in 
placing the daughter in a facility but the patient has been 
unwilling to sign the paperwork. I discussed this with PCP who 
indicated this has been ongoing for sometime, many people are 
already involved but the patient has been refusing to transition 
daughter out of the home. The patient is already receiving 
maximum services.
 
The patient was admitted to the medical floor only for a couple 
hours before she was discharged against medical advice. A work 
up for fever was incomplete but treated empirically for UTI with 
Cipro for 3 days. The patient remained coherent, clear and was 
able to clearly site the risks of being discharged against 
medical advice which include septic shock and death. I called 
and discussed with the patients PCP who will follow up UCx, 
resume outpatient services and continue to work with social work 
on patients home situation. 

Long standing medical illnesses are chronic and stable
# Seizure disorder
# Constipation
# Osteoporosis
Continued home meds
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q6H 
2. ClonazePAM 0.5 mg PO QAM 
3. ClonazePAM 1 mg PO QHS 
4. Docusate Sodium 100 mg PO BID 
5. Gabapentin 1200 mg PO TID 
6. LeVETiracetam 1000 mg PO BID 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Senna 8.6 mg PO BID 
9. Bisacodyl 10 mg PO/PR DAILY Constipation 
10. Mineral Oil 30 mL PR ONCE:PRN constipation 
11. OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN Pain 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bisacodyl 10 mg PO/PR DAILY Constipation  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0 
4.  Docusate Sodium 100 mg PO BID  
5.  Mineral Oil 30 mL PR ONCE:PRN constipation  
6.  Multivitamins W/minerals 1 TAB PO DAILY  
7.  OxycoDONE (Immediate Release)  2.5-5 mg PO Q4H:PRN Pain  
8.  Senna 8.6 mg PO BID  
9.  ClonazePAM 0.5 mg PO QAM  
10.  ClonazePAM 1 mg PO QHS  
11.  Gabapentin 1200 mg PO TID  
12.  LeVETiracetam 1000 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
 
You were admitted from the emergency department with ankle pain, 
fever and concern for a urinary tract infection. You were 
admitted to the medical service but unfortunately you wanted to 
be discharged without further treatment or work up. We discussed 
the risks which include worsening infection including kidney 
infection, bone infection in your ankle and blood stream 
infection leading potentially to death if untreated. We also 
discussed concerns that you may suffer another fall with 
resulting injury at home. We feel you are unsafe to be 
discharged and you are leaving against medical advice. 
 
Please be advised our recommendation is for you to remain 
hospitalized and your decision is to leave against medical 
advice.
 
Followup Instructions:
___